US05093335
(1) Preparation of 2-chloro-3-tert-butylamino-5,6-dicyanopyrazine
5.0 g (0.025 mol) of 2,3-dichloro-5,6-dicyanopyrazine was dissolved in 50 ml of dry tetrahydrofuran, and 25 ml of a dry tetrahydrofuran solution containing 3.7 g (0.050 mol) of tert-butylamine was dropwise added thereto at a temperature of from -15°to 0° C. After completion of the dropwise addition, the mixture was stirred for 2 hours, and the reaction solution was poured into 500 ml of water. The precipitated solid was collected by filtration and recrystallized from toluene to obtain 4.5 g of slightly yellow crystals (yield: 76.4%, melting point: 174°-176° C.).

reactant | 2,3-dichloro-5,6-dicyanopyrazine | 0.025 mol, 5.0 g | ClC1=NC(=C(N=C1Cl)C#N)C#N | C6Cl2N4
reactant | tert-butylamine | 0.050 mol, 3.7 g | C(C)(C)(C)N | C4H11N
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-chloro-3-tert-butylamino-5,6-dicyanopyrazine | yield: 76.4% | ClC1=NC(=C(N=C1NC(C)(C)C)C#N)C#N | C10H10ClN5
